*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : A01T
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt A01T_freq port1 port2 PARAMS: Cpar=0.0904pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=11.13
+ R2=0.015
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=94.13
+ L_EL=33.44
+ L_F0=3505E6
+ PkZ=0
.ends A01T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : A02T
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt A02T_freq port1 port2 PARAMS: Cpar=0.1114pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=11.55
+ R2=0.032
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=116.7
+ L_EL=34.19
+ L_F0=2218E6
+ PkZ=0
.ends A02T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : A03T
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-5.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt A03T_freq port1 port2 PARAMS: Cpar=0.1508pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=6.809
+ R2=0.0513
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=144.2
+ L_EL=39.01
+ L_F0=1957E6
+ PkZ=0
.ends A03T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : A04T
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-4.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt A04T_freq port1 port2 PARAMS: Cpar=0.2621pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=7.084
+ R2=0.0807
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=182.9
+ L_EL=38.39
+ L_F0=1572E6
+ PkZ=0
.ends A04T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : A05T
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.05GHz-3.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt A05T_freq port1 port2 PARAMS: Cpar=0.2456pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5.363
+ R2=0.1202
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=213.8
+ L_EL=39.56
+ L_F0=1279E6
+ PkZ=0
.ends A05T_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
